US08048887B2
To a microwave vial was added 2-(4-fluorophenyl)-5-(4-hydroxy-2-methyl-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide (16.6 mg, 0.031 mmol), dioxane (2 mL), triphenylphosphine (32.5 mg, 0.124 mmol), (E)-di-tert-butyl diazene-1,2-dicarboxylate (21.41 mg, 0.093 mmol) and propan-2-ol (5.92 μL, 0.077 mmol). The vial was sealed and subjected to microwave heating (140° C.) for 20 minutes. The crude product was purified using a Shimadzu preparative HPLC employing acetonitrile/water/trifluoroacetic acid where solvent A was 10% acetonitrile/90% water/0.1% trifluoroacetic acid and solvent B was 10% water/90% acetonitrile/0.1% trifluoroacetic acid with a Waters Sunfire 5 μm C18 19×150 mm column at a gradient of 20-100% B and a flow rate of 25 mL/min. over 20 minutes with a 5 minute hold. The solvent was removed giving 6 mgs (25% yield) of 2-(4-fluorophenyl)-5-(4-isopropoxy-2-methyl-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide as a colorless powder. The LC/MS data was obtained on a Shimadzu analytical LC/MICROMASS® Platform LC (ESI+) at 220 nm using the following set of conditions: PHENOMENEX® Luna 3 μm C18, 2×50 mm column, with a gradient of 0-100% B (B=90% HPLC grade acetonitrile/0.1% trifluoroacetic acid/10% HPLC grade water), (A=90% HPLC grade water/0.1% trifluoroacetic acid/10% HPLC grade acetonitrile), in 4 minutes with a 1 minute hold at a rate of 0.8 mL/minute. HPLC purity was determined using a Shimadzu analytical LC at 254 nm and 256 nm with a Waters Sunfire C18 3.5 μm 4.6×150 mm column employing water/acetonitrile/0.1% trifluoroacetic acid with a gradient of 10-100% B (B=95% HPLC grade acetonitrile/0.1% trifluoroacetic acid/5% HPLC grade water), (A=95% HPLC grade water/0.1% trifluoroacetic acid/5% HPLC grade acetonitrile), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. The HPLC purity was then confirmed with an orthogonal solvent system and column using a Shimadzu analytical LC with a Waters XBridge phenyl C18 3.5 μm 4.6×150 mm column employing water/methanol/10 mM ammonium bicarbonate with a gradient of 10-100% B (B=95% HPLC grade methanol/10 mM ammonium bicarbonate/5% HPLC grade water), (A=95% HPLC grade water/10 mM ammonium bicarbonate/5% HPLC grade methanol), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. 1H NMR (400 MHz, THF-d8) δ ppm 1.24-1.31 (m, 2H), 1.46 (d, J=6.02 Hz, 6H), 1.64-1.69 (m, 2H), 2.29 (s, 3H), 2.89 (d, J=4.52 Hz, 3H), 4.83-4.95 (m, 1H), 6.98-7.04 (m, 1H), 7.07 (s, 1H), 7.16-7.24 (m, 2H), 7.26 (dd, J=8.28, 1.76 Hz, 1H), 7.47 (d, J=8.03 Hz, 2H), 7.52-7.59 (m, 2H), 7.62 (d, J=1.26 Hz, 1H), 7.95 (s, 1H), 8.11-8.19 (m, 2H), 8.36-8.43 (m, 1H), 8.61 (s, 1H). LCMS m/z 578.4 (M+H), Rt=2.746 min. HPLC (Sunfire C18) Rt=7.695 min, 98.38% purity and (XBridge phenyl C18) Rt=12.003 min., 95.9% purity.

reactant | 2-(4-fluorophenyl)-5-(4-hydroxy-2-methyl-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide | 0.031 mmol, 16.6 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=C(C(=C2)C(NC2(CC2)C2=NC=CC=C2)=O)O)C | C32H26FN3O4
reactant | triphenylphosphine | 0.124 mmol, 32.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (E)-di-tert-butyl diazene-1,2-dicarboxylate | 0.093 mmol, 21.41 mg | N(=N\C(=O)OC(C)(C)C)/C(=O)OC(C)(C)C | C10H18N2O4
reactant | propan-2-ol | 0.077 mmol, 5.92 μL | CC(C)O | C3H8O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-(4-fluorophenyl)-5-(4-isopropoxy-2-methyl-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide | 6 mgs, 25% yield | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=C(C(=C2)C(NC2(CC2)C2=NC=CC=C2)=O)OC(C)C)C | C35H32FN3O4
